US04359420
2.7 g of 10 percent palladium/carbon are added to a solution of 20.0 g (0.108 mol) of 6-fluoro-nitrobenzoic acid in a mixture of 200 ml of methanol and 27 ml of concentrated hydrochloric acid and the resulting mixture is hydrogenated at 35°-40° C. under a slight over-pressure. After filtration of the catalyst and concentration of the filtrate, the crude product is recrystallised from methanol/ether. There is obtained 6-fluoroanthranilic acid hydrochloride of melting point 176°-178° C. (decomposition).

reactant | 6-fluoro-nitrobenzoic acid | 0.108 mol, 20.0 g | FC1=CC=CC(=C1C(=O)O)[N+](=O)[O-] | C7H4FNO4
reactant | hydrochloric acid | 27 ml | Cl | ClH
solvent | methanol | 200 ml | CO | CH4O
catalyst | palladium/carbon | 2.7 g | [Pd] | Pd
product | 6-fluoroanthranilic acid hydrochloride | Cl.FC=1C=CC=C(C1C(=O)O)N | InChI=1S/C7H6FNO2.ClH/c8-4-2-1-3-5(9)6(4)7(10)11;/h1-3H,9H2,(H,10,11);1H
